Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left sided weakness
 
Major Surgical or Invasive Procedure:
thrombectomy ___ at 10;38 AM
 
History of Present Illness:
Time/Date the patient was last known well: ___ at 05:30

Pre-stroke mRS ___ social history for description): 0

t-PA Administration
[] Yes - Time given:
[x] No - Reason t-PA was not administered: outside window on
arrival to ___ (not administered at OSH due to PLT < 100k)

Endovascular intervention: 
[x]Yes - Time: 10:38
[]No - Reason EVT was not performed:

I was present during CT scanning and reviewed the images within
20 minutes of their completion.

___ Stroke Scale - Total [8]

1a. Level of Consciousness - 0
1b. LOC Questions - 0
1c. LOC Commands - 0
2. Best Gaze - 1
3. Visual Fields - 1
4. Facial Palsy - 2
5a. Motor arm, left - 2
5b. Motor arm, right - 0
6a. Motor leg, left - 1
6b. Motor leg, right - 0
7. Limb Ataxia - 0
8. Sensory - 0
9. Language - 0
10. Dysarthria - 0
11. Extinction and Neglect - 1

NIHSS was performed within 6 hours of patient presentation or
neurology consult at 09:50.

HPI: 
Mr. ___ is a ___ man with history notable for
CAD c/b MI s/p CABG, PE (not on anticoagulation), HTN, and 
recent
suspected diagnosis of Lyme disease (with serologies pending)
presenting with acute-onset left-sided weakness.

While walking on his lawn at approximately 05:30 this morning,
Mr. ___ suddenly fell to his left side as he attempted to
move a sprinkler. He felt that he was still able to move his 
left
arm and leg, but was unable to push himself up to stand. He
denies loss of consciousness, headache, lightheadedness, sensory
disturbance, or abnormal movements with this episode. His wife
noticed him on the ground, and attempted to help him to his 
feet,
but was unable to do so. EMS was activated and Mr. ___ was
brought to ___, where CT/CTA demonstrated a proximal
right M2 occlusion. Mr. ___ was then transferred to ___ 
for
consideration of thrombectomy.

On review of systems, noted recent fevers, chills, night sweats,
and right groin rash over the past few days; was recently 
started
on doxycycline for empiric treatment of Lyme, but with 
outpatient
serologies pending. ROS otherwise negative.

 
Past Medical History:
CAD c/b MI s/p CABG
PE (not on anticoagulation)
HTN
Suspected Lyme disease
 
Social History:
___
Family History:
mom dad- CAD; brother- MI at ___
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
General: NAD
HEENT: NCAT, neck supple
___: warm, well-perfused
Pulmonary: no tachypnea or increased WOB
Abdomen: soft, ND
Extremities: warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to month and place. Able
to relate history without difficulty. Speech is fluent with
intact naming, reading, and comprehension. No dysarthria. No
visual hemineglect. Able to follow both midline and appendicular
commands.

- Cranial Nerves: PERRL (3 to 2 mm ___. Subtle, peripheral
inferior right quadrantanopsia. Right gaze preference, overcomes
midline but unable to bury sclerae on left. V1-V3 without
deficits to light touch bilaterally. Left lower facial weakness.
Hearing intact to conversation. Palate elevation symmetric.
Trapezius strength ___ bilaterally. Tongue midline.

- Motor: Proximal antigravity effort in LUE, drifts to bed; LLE
also drifts to bed. Full power on right.
 
- Reflexes: Deferred.

- Sensory: No deficits to light touch or pinprick bilaterally,
but with left-sided extinction to DSS.

- Coordination: No dysmetria with finger-to-nose testing on
right, no dysmetria on HKS bilaterally.

- Gait: Deferred.

__________________________________________________
AT DISCHARGE:
VITALS: reviewed in metavision

General: NAD, pleasant
HEENT: neck supple, abrasions to bridge of nose and scalp
___: warm, well-perfused
Pulmonary: no tachypnea or increased WOB
Abdomen: soft, ND
Extremities: warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to month and place. Able
to relate history without difficulty. Speech is fluent with
intact naming, reading, and comprehension. No dysarthria. No
visual hemineglect. Able to follow both midline and appendicular
commands. 

- Cranial Nerves: PERRL (4 to 2 mm ___.  Resolution of 
peripheral
inferior right quadrantanopsia seen on admission. No gaze
preference, EOMI. V1-V3 without deficits to light touch
bilaterally. L NLFF. Left lower face slow to activate. Hearing
intact to conversation. Palate elevation symmetric. Trapezius
strength ___ bilaterally. Tongue midline. 

- Motor: Pronation of left arm. Finger tapping full. Normal bulk
and tone throughout. No adventitious movements, such as tremor 
or asterixis noted.
  [___]

L    5    5    5    5    5    5   5    5    5   5    5    5

R    5    5    5    5    5    5   5    5    5   5    5    5

- Reflexes: Deferred.

- Sensory: No deficits to light touch or pinprick bilaterally,

- Coordination: No dysmetria with finger-to-nose testing on
right, no dysmetria on HKS bilaterally. Romberg negative

- Gait: Able to stand and walk on his own without difficulty

 
Pertinent Results:
LABS:

IMAGING:
___ 10:10 AM CTA HEAD W&W/O C & RECONS; CTA NECK W&W/OC &
RECONS; CT BRAIN PERFUSION
CT HEAD WITHOUT CONTRAST:
There is loss of gray-white matter differentiation in the right
frontal operculum compatible with acute infarct. There is no
evidence of acute hemorrhage. Mild prominence of the ventricles
and sulci suggest involutional changes.
 
Partial opacification of the right sphenoid sinus. The remaining
visualized portion of the paranasal sinuses, mastoid air cells,
and middle ear cavities are clear. The visualized portion of the
orbits are unremarkable.
 
CTA HEAD:
There is abrupt cutoff of the right M2 segment (4:293) 
compatible
with occlusion. The remaining vessels of the circle of ___ 
and
their principal intracranial branches appear normal without
stenosis, occlusion, or aneurysm formation. The dural venous
sinuses are patent.
 
CTA NECK:
The carotid and vertebral arteries and their major branches
appear normal with no evidence of stenosis or occlusion. There 
is
no evidence of internal carotid stenosis by NASCET criteria.
 
CT PERFUSION:
Cerebral blood flow < 30% volume: 35 mL
T-max > 6.0 seconds volume: 89 mL
Mismatch volume: 54 mL
Mismatched ratio: 2.5
 
OTHER:
The visualized portion of the lungs are clear. The visualized
portion of the
thyroid gland is within normal limits. a 1.1 cm subcarinal lymph
node (4:4)
noted.

Echocardiogram: 
Normal left ventricular cavity size with mild regional systolic 
dysfunction most consistent with
single vessel coronary artery disease (distal RCA). MIldly 
dilated thoracic aorta. No valvular pathology or
pathologic flow identified. No definite cardiac source of 
embolism seen.

Liver ultrasound: 
  
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded 
on the basis of this examination. 
2. 2.1 x 1.5 x 1.0 cm echogenic hepatic lesion is possibly a 
hemangioma, 
however not fully characterized by ultrasound. 

 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of CAD 
c/b MI s/p CABG, PE (not on anticoagulation), HTN, and recent 
suspected diagnosis of Lyme disease  presenting with acute-onset 
left-sided weakness. He was found to have an acute M2 cutoff and 
was taken for thrombectomy. He had a successful reperfusion TICI 
3 after one pass. He was subsequently admitted to the stroke 
service for further work-up and monitoring. 

#Acute R MCA infarct s/p Thrombectomy: 
Etiology unknown but presumed possibly cardioembolic given his 
history of coronary artery disease 
Risk factors: A1c: 5.8 , TSH: 79, LDL: 79
- Patient underwent a TTE which was negative for any source of 
thromboembolism of ASD
-He was continued on ASA, clopidogrel 
-MRI brain revealed acute infarct in the R MCA territory 
involving the inferior division. He also had evidence of small 
hemorrhages in the stroke bed due to reperfusion injury. 
He was counseled that because of temporal lobe is involved this 
is an epileptogenic area and may result in seizures further on. 
He did not show any evidence of seizures during his 
hospitalization.
-Patient was started on fluoxetine 20mg daily to promote 
mood/motor recovery 
-Patient was started on atorvastatin 40mg daily 
-Antiphospholipid antibodies and d-dimer were also sent 
-Regarding his etiology , he likely has paroxysmal afib. We 
discussed with the patient for him to be started on 
eliquis/apixaban in ___ days after a repeat ct scan is done to 
ensure the hemorrhages from the stroke are not worse. If CT 
stable he will start 5mg BID of eliquis and STOP the aspirin and 
Plavix
-We have also ordered the patient for ___ of hearts monitor 
to look for pAF. We would like his pcp/cardiologist to consider 
linq or ziopatch to further monitor for paroxysmal afib more 
long-term 
-His cardiologist is to also order a Factor V-Leiden to complete 
a hypercoaguable stroke work up 

#Lyme Disease + thrombocytopenia: 
-Patient's lyme titers were obtained from ___ and he had 
a positive igM lyme. His doxycycline was continued. 
Thrombocytopenia in setting of lyme disease. Remained stable 

#Elevated LFTs: 
LFTs elevated but downtrending, most likely sequelae of Lyme 
- RUQUS was done and showed steatohepatitis 
-PCP to ___ LFTs. Recommend re-checking in about 1-week 
_______________________________
TRANSITIONAL ISSUES

1. An order for CT scan has been placed to be done on ___ . 
Please call ___ if you have not heard about time for CT 
scan (outpatient) 
2. Outpatient speech therapy prescription provided
3. PCP/Cardiologist: 
 - Monitor patient and ensure he takes 5mg BID of eliquis after 
CT scan is done and bleed is stable . Aspirin and Plavix to be 
discontinued when patient started on eliquis
 - Monitor LFTs 
 - ___ of hearts monitor followed by further cardiac monitor 
with zio patch or linq (Discretion of cardiologist ) 
 - Please send Factor V ___ in outpatient setting to complete 
hypercoaguable stroke work up
4. Lyme disease: continue doxycycline for appropriate length of 
time (PCP to follow)
_______________________________

 AHA/ASA Core Measures for Ischemic Stroke and Transient 
Ischemic Attack  
 1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed – () No  
 2. DVT Prophylaxis administered? (X) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (X) Yes - () No  
 4. LDL documented? () Yes (LDL = ) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (X) Yes - () No [if 
LDL if LDL >70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL]  
 6. Smoking cessation counseling given? (X) Yes - () No [reason 
() non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No  
 9. Discharged on statin therapy? (X) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (X) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (X) Yes - () No - () N/A 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clopidogrel 75 mg PO DAILY 
2. Doxycycline Hyclate 100 mg PO Q12H 
3. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Niacin SR 1000 mg PO DAILY 
6. Rosuvastatin Calcium 40 mg PO QPM 

 
Discharge Medications:
1.  FLUoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 capsule(s) by mouth DAILY Disp #*90 
Capsule Refills:*3 
2.  Aspirin 81 mg PO DAILY  
3.  Clopidogrel 75 mg PO DAILY  
4.  Doxycycline Hyclate 100 mg PO Q12H  
5.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  Niacin SR 1000 mg PO DAILY  
8.  Rosuvastatin Calcium 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
 You were hospitalized due to symptoms of left sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

1. Heart disease 
2. High blood pressure, High cholesterol 

We are changing your medications as follows:  
1. Please continue taking Aspirin and Plavix for the next ___ 
days. You will be scheduled to have an outpatient CT scan on 
___. We have ordered you for a CT scan of your brain to be 
done on ___. If you do not hear from radiology please call 
___ to ensure you are scheduled.

 If the CT scan is stable we will ask your PCP/Cardiologist to 
start you on the medication apixaban/eliquis and stop the 
___. 

We also will ask your PCP/Cardiologist to have you wear a holter 
monitor for the next few weeks to monitor for an irregular heart 
beat that makes you prone to having strokes. 

Please take your other medications as prescribed.
  
Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

It was a pleasure taking care of you.

Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___